US05770598
3,4-Dimethyl-2-(3-ethyl-1,2,4-oxadiazol-5-yl) pyrrolo[3,2-b]carbazole
3,4-Dimethylpyrrolo[3,2-b]carbazole-2-carboxylic acid (2.78 g, 10.0 mmol), (prepared as described in WO93/01512) and carbonyl diimidazole (1.85 g, 11.4 mmol) were dissolved in freshly distilled tetrahydrofuran (50 ml) in an oven-dried flask under a nitrogen atmosphere. The resulting orange solution was stirred at room temperature for three hours, by which time it was an orange suspension, and complete conversion of the acid to the imidazolide intermediate was verified by TLC. Meanwhile, in a second oven-dried flask, ethylamidoxime (2.2 g, 25 mmol) was dissolved in THF (50 ml). To this was added crushed 3 Å sieves (3.3 g) and the mixture was stirred at room temp for 45 min. Sodium hydride (60% dispersion in mineral oil, 0.804 g, 20 mmol) was added and the mixture stirred for a further 2.5 hours. The contents of the two flasks were combined and stirred at room temp for 18 hours, by which time TLC showed complete consumption of the imidazolide intermediate. The solvent was removed in vacuo to give a yellow solid. Chromatography on silica (eluting with ethyl acetate/petrol, gradient 8% -15% ethyl acetate) gave a yellow solid. The majority of this material was dissolved in ether, leaving an insoluble orange impurity. The solution was filtered, and the solvent removed in vacuo to give the title compound as a yellow powder (1.2 g, 36%) which decomposes above 45° C. δH [2H6 ]-DMSO 11.69 (1H, s, 1-NH), 10.69 (1H, s, 5-NH), 8.09 (1H, d, J 7.5, 9-H), 7.90 (1H, s, 10-H), 7.30-7.48 (2H, m, 6-H, 7-H), 7.09 (1H ddd, J 7.5, 5.5, 2, 8-H), 2.99 and 2.95 (2×3H, 2×s, 3-CH3 and 4-CH3), 2.85 (2H, q, 7.5, CH2 CH3), 1.36 (3H, t, 7.5, CH2CH3).

reactant | 3,4-Dimethylpyrrolo[3,2-b]carbazole-2-carboxylic acid | 10.0 mmol, 2.78 g | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C(=O)O | C17H12N2O2
reactant | carbonyl diimidazole | 11.4 mmol, 1.85 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | imidazolide | [N-]1C=NC=C1
reactant | Sodium hydride | 20 mmol, 0.804 g | [H-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3,4-Dimethyl-2-(3-ethyl-1,2,4-oxadiazol-5-yl) pyrrolo[3,2-b]carbazole | 1.2 g, 36% | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C2=NC(=NO2)CC | C20H16N4O
